* C:\Users\djave\AD9954_Current_Source\ref\AD9954\DAC_Network_Model.asc
Rx Vref VDAC+ 287
R1 VDAC+ 0 931
R2 VIN+ VDAC+ 1500
R4 0 VDAC- 1150
Ry VDAC- Vref 309
Rg VDAC- VIN- 1500
Rf VIN- Vout 750
R3 VIN+ 0 750
XU1 VIN- VIN+ Vout opamp Aol=100K GBW=10Meg
I1 VDAC+ 0 SINE(2.5m 2.5m 1000 0 0 0)
I2 VDAC- 0 SINE(2.5m 2.5m 1000 0 0 180)
V1 Vref 0 3.3
V2 VDD 0 1.8
.tran 0 2m 0
.lib opamp.sub
;op 0 2m 0
.backanno
.end
